US08957089B2
2-(1-(1-(4-chlorophenyl)cyclobutyl)-3,4-dihydroisoquinolin-7-yloxy)ethanamine (80.0 mg, 0.15 mmol), 2,4-dichloro-benzoyl chloride (44.3 mg, 0.21 mmol), and triethyl amine (48.6 mg, 0.48 mmol) were dissolved in dichloromethane (2 ml) and stirred for 14 h at RT. Water was added and the mixture was extracted with ethyl acetate. The organic layers were washed with water and saturated NaCl solution, dried with MgSO4, and the solvent was removed. The residue was purified by flash chromatography on silica gel using methylenchloride/MeOH 98:2→95:5 to give 2,4-dichloro-N-(2-{1-[1-(4-chloro-phenyl)-cyclobutyl]-3,4-dihydro-isoquinolin-7-yloxy}-ethyl)-benzamide as a colourless oil (85.0 mg, 0.16 mmol, 84%).

reactant | 2-(1-(1-(4-chlorophenyl)cyclobutyl)-3,4-dihydroisoquinolin-7-yloxy)ethanamine | 0.15 mmol, 80.0 mg | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCN | C21H23ClN2O
reactant | 2,4-dichloro-benzoyl chloride | 0.21 mmol, 44.3 mg | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | triethyl amine | 0.48 mmol, 48.6 mg | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2,4-dichloro-N-(2-{1-[1-(4-chloro-phenyl)-cyclobutyl]-3,4-dihydro-isoquinolin-7-yloxy}-ethyl)-benzamide | 0.16 mmol, 85.0 mg, 84% | ClC1=C(C(=O)NCCOC2=CC=C3CCN=C(C3=C2)C2(CCC2)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C28H25Cl3N2O2
